US05519036
Methyl (trans-4-aminocyclohexyl)oxyacetate-hydrochloride
Hydrochloric acid gas is piped for an hour over a solution of 59.4 g of tert.butyl (trans-4-aminocyclohexyl)oxyacetate in 500 ml of methanol, cooled in an ice bath, and then the mixture is stirred overnight at ambient temperature. It is evaporated to dryness, the residue is triturated with acetone and the solid is suction filtered and dried.

reactant | Hydrochloric acid | Cl | ClH
reactant | tert.butyl (trans-4-aminocyclohexyl)oxyacetate | 59.4 g | N[C@@H]1CC[C@H](CC1)OCC(=O)OC(C)(C)C | C12H23NO3
solvent | methanol | 500 ml | CO | CH4O
product | Methyl (trans-4-aminocyclohexyl)oxyacetate-hydrochloride | Cl.N[C@@H]1CC[C@H](CC1)OCC(=O)OC | InChI=1S/C9H17NO3.ClH/c1-12-9(11)6-13-8-4-2-7(10)3-5-8;/h7-8H,2-6,10H2,1H3;1H/t7-,8-;
